US04248618
5-Bromo-2-(4-methoxyphenoxy)pyrimidine (2.4 g) was dissolved in methylene chloride (50 ml) and the solution cooled to a temperature of -70° C. Boron tribromide (12.7 g) was added dropwise to the stirred solution, the temperature of the solution being maintained at -65° to -75° C. On completion of the addition the reaction mixture was stirred for a further one hour at a temperature of -65° to -75° C. and then the temperature of the reaction mixture was allowed to rise slowly to room temperature. The reaction mixture was added cautiously, in small portions, to water and the methylene chloride removed by heating the mixture on a water bath. The aqueous suspension was cooled to a temperature of 20° C., the solid was collected by filtration, washed with water and recrystallised from methanol/water to give 4-(5-bromo-2-pyrimidyloxy)phenol (2.1 g), m.p. 178° C.

reactant | 5-Bromo-2-(4-methoxyphenoxy)pyrimidine | 2.4 g | BrC=1C=NC(=NC1)OC1=CC=C(C=C1)OC | C11H9BrN2O2
reactant | Boron tribromide | 12.7 g | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-bromo-2-pyrimidyloxy)phenol | 2.1 g | BrC=1C=NC(=NC1)OC1=CC=C(C=C1)O | C10H7BrN2O2
